US04983596
To a solution of (2S,4R)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-methanesulfonyloxypyrrolidine (17.30 g) and thioacetic S-acid (5.88 ml) in 4-methyl-2-pentanone (121 ml) was added calcium hydroxide (3.05 g) below 45° C. Solvent (40 ml) was removed under reduced pressure (50-60 mmHg), at 40°-45° C. The suspension was heated at 80°-85° C. for 5 hours. After cooling, water (30 ml) was added to the suspension. The insoluble material was filtered off and washed with ethyl acetate (50 ml). The filtrate and washing were collected. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (170 g) and eluted with a mixture of hexane and ethyl acetate (1:9-2:8) to give (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidine (13.80 g).

reactant | (2S,4R)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-methanesulfonyloxypyrrolidine | 17.30 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCCF | C12H20FNO6S
reactant | thioacetic S-acid | 5.88 ml | C(C)(=O)S | C2H4OS
reactant | calcium hydroxide | 3.05 g | [OH-].[Ca+2].[OH-]
solvent | 4-methyl-2-pentanone | 121 ml | CC(CC(C)=O)C | C6H12O
product | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidine | 13.80 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)COCCF | C13H20FNO4S
